US20010027196A1
2-Amino-4-(p-chlorophenyl)-6-(methylthio)-pyrimidine-5-carbonitrile
From 4-chlorobenzoylacetonitrile with sodium hydride, carbon disulphide and methyl iodide in DMSO. Then treatment with guanidine nitrate and triethylamine in DMF. EI-MS m/e (%): 278 (M{37Cl}+, 14), 277 ([M{37Cl}—H]+, 42), 276 (M{35Cl} +, 46), 275 ([M{35Cl}—H]+, 100), 241 ([M—Cl]+, 30).

reactant | 4-chlorobenzoylacetonitrile | ClC1=CC=C(C(=O)CC#N)C=C1 | C9H6ClNO
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
reactant | guanidine nitrate | [N+](=O)(O)[O-].NC(=N)N
reactant | DMSO | CS(=O)C | C2H6OS
solvent | DMF | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | carbon disulphide | C(=S)=S | CS2
product | 2-Amino-4-(p-chlorophenyl)-6-(methylthio)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC=C(C=C1)Cl)C#N)SC | C12H9ClN4S
